US06562989B2
2,2′-dimethyl-1,1′-biphenyl (Table 13, Entry 5)
2-Bromotoluene (87 mg, 0.51 mmol) reacted with 2-methylphenylboronic acid (88 mg, 0.65 mmol) using 1 mol % of Pd(dba)2/Ph5FcP(t-Bu)2 and KF (87 mg, 1.50 mmol) in THF solvent at room temperature to give the title compound (91 mg, 98%) as a colorless oil: 1H-NMR (300 MHz, CDCl3): δ 7.29-7.35 (m, 6H), 7.20 (d, 2H, J=6.3 Hz), 2.15 (s, 6H).). 13C{1H}-NMR (100 MHz, CDCl3): δ 141.56, 135.76, 129.77, 129.25, 127.12, 125.51, 19.81. GC/MS(EI): m/z 182 (M+).

reactant | 2-Bromotoluene | 0.51 mmol, 87 mg | BrC1=C(C=CC=C1)C | C7H7Br
reactant | 2-methylphenylboronic acid | 0.65 mmol, 88 mg | CC1=C(C=CC=C1)B(O)O | C7H9BO2
reactant | KF | 1.50 mmol, 87 mg | [F-].[K+]
solvent | THF | C1CCOC1 | C4H8O
product | 2,2′-dimethyl-1,1′-biphenyl | 91 mg, 98% | CC1=C(C=CC=C1)C1=C(C=CC=C1)C | C14H14
